* Z:\mnt\design.r\spice\examples\2954-1.asc
R1 N001 N003 100K
C1 N007 0 10n
C2 N008 0 10n
V1 N004 0 PWL(0 3.3 5 3.3 5.001 0 6 0 6.001 3.3 7 3.3 7.001 0 8 0 8.001 3.3 8.5 3.3 8.501 0 9.5 0 9.501 3.3 11 3.3 11.001 0 11.75 0 11.751 3.3)
V2 N001 0 PWL(0 0 3 6)
R2 N001 N005 10K
XU1 N001 N004 N007 0 N005 N003 N008 N006 LTC2954-1
R3 N002 N006 100K
V3 N009 0 PWL(0 0 9.999 0 10 5 11 5 11.001 0)
XU2 N002 N002 MP_01 0 N003 MP_02 MP_03 N001 LT3010-5
C3 N002 0 1µ
R4 N002 0 100
M§Q1 N006 N009 0 0 NMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 15
.lib LT3010.lib
.lib LTC2954-1.sub
.backanno
.end
